US04559177
A dimethylformamide solution of methyl 10-(3,4-dimethoxy-2-hydroxy-6-methylphenyl)decanoate (129 mg) is oxidized in the same manner as Example 20. This procedure yields 2,3-dimethoxy-5-methyl-6-(9-methoxycarbonylnonyl)-1,4-benzoquinone (91 mg) as orange-yellow needles melting at 37° C.-38° C.

reactant | methyl 10-(3,4-dimethoxy-2-hydroxy-6-methylphenyl)decanoate | 129 mg | COC=1C(=C(C(=CC1OC)C)CCCCCCCCCC(=O)OC)O | C20H32O5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3-dimethoxy-5-methyl-6-(9-methoxycarbonylnonyl)-1,4-benzoquinone | 91 mg | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)OC)=O | C20H30O6
